US07037909B2
3,3,4,7-Tetrachloro-5-methoxy-1,3-dihydro-indol-2-one
11.54 g of 3,3,4-trichloro-5-methoxy-1 ,3-dihydro-indol-2-one (43.3 mmol) was suspended in glacial AcOH (200 mL). 3.343 g (21.7 mmol) of N,N-dichlorourethane was added and the mixture was stirred at 60° C. for 2 days. The reaction mixture was cooled to room temperature, the precipitate collected by filtration and dried on high vacuum. Re-crystallization from benzene (150 mL) yielded 6.135 g of product (containing 5% of the start. material as an impurity).

reactant | 3,3,4-trichloro-5-methoxy-1 ,3-dihydro-indol-2-one | 43.3 mmol, 11.54 g | ClC1(C(NC2=CC=C(C(=C12)Cl)OC)=O)Cl | C9H6Cl3NO2
reactant | N,N-dichlorourethane | 21.7 mmol, 3.343 g | ClN(C(=O)OCC)Cl | C3H5Cl2NO2
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
product | 3,3,4,7-Tetrachloro-5-methoxy-1,3-dihydro-indol-2-one | 6.135 g | ClC1(C(NC2=C(C=C(C(=C12)Cl)OC)Cl)=O)Cl | C9H5Cl4NO2
